US05171753
β-[[3-(2-Ethoxyethoxy)propyl]amino]-α-phenylbenzeneethanol.
A mixture of trans-stilbene oxide (1.96 g, 0.010 mol) and 3-[(2-ethoxy)ethoxy]-1-propylamine (4.41 g, 0.030 mol) was heated at 140° C. for 5 hours. The reaction mixture was dissolved in acetone (20 mL) and the solution poured into water (120 mL). The solid that formed was collected by filtration and dried under ambient conditions to give 3.0 g (87%) of material. Recrystallization from isooctane gave 2.45 g of the product; mp 65°-66° C.

reactant | trans-stilbene oxide | 0.010 mol, 1.96 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 3-[(2-ethoxy)ethoxy]-1-propylamine | 0.030 mol, 4.41 g | CCOCCOCCCN | C7H17NO2
reactant | water | 120 mL | O | H2O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | β-[[3-(2-Ethoxyethoxy)propyl]amino]-α-phenylbenzeneethanol | 3.0 g, 87% | C(C)OCCOCCCNC(C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C21H29NO3
